US07348359B2
A mixture of 210 mg (0.450 mmol) of 3-[7-(2-ethoxy-3,5-di-tert-butylphenyl)-benzo[b]furan-2-yl]-but-2-enoic acid ethyl ester, 3 mL of THF, 3 mL of methanol and 1 mL of LiOH (2N aqueous) was refluxed for 2 hours. After cooling at room temperature, the mixture was acidified to pH=2 and extracted with ethyl acetate. The organic layer was dried over MgSO4 and after evaporation of the solvents, the crude acid was recrystallized from acetonitrile. 3-[7-(2-Ethoxy-3,5-di-tert-butylphenyl)-benzo[b]furan-2-yl]-but-2-enoic acid was isolated as a white solid.

reactant | 3-[7-(2-ethoxy-3,5-di-tert-butylphenyl)-benzo[b]furan-2-yl]-but-2-enoic acid ethyl ester | 0.450 mmol, 210 mg | C(C)OC(C=C(C)C1=CC2=C(O1)C(=CC=C2)C2=C(C(=CC(=C2)C(C)(C)C)C(C)(C)C)OCC)=O | C30H38O4
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | LiOH | 2N, 1 mL | [Li+].[OH-]
solvent | methanol | 3 mL | CO | CH4O
product | 3-[7-(2-Ethoxy-3,5-di-tert-butylphenyl)-benzo[b]furan-2-yl]-but-2-enoic acid | C(C)OC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)C1=CC=CC2=C1OC(=C2)C(=CC(=O)O)C | C28H34O4
